US20010027196A1
6-Amino-2-furan-2-yl-4-[(quinolin-2-ylmethyl)-amino]-nicotinonitrile
From trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester and 2-(aminomethyl)quinoline in DME. ES-MS m/e (%): 342 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
reactant | 2-(aminomethyl)quinoline | NCC1=NC2=CC=CC=C2C=C1 | C10H10N2
solvent | DME | COCCOC | C4H10O2
product | 6-Amino-2-furan-2-yl-4-[(quinolin-2-ylmethyl)-amino]-nicotinonitrile | NC1=NC(=C(C#N)C(=C1)NCC1=NC2=CC=CC=C2C=C1)C=1OC=CC1 | C20H15N5O
